US08980877B2
A suspension of (E)-3-[1′-benzoyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (200 mg, 0.50 mmol) in DCM (5 ml) was treated with TEA (0.11 ml, 0.82 mmol) and then with EDC (158 mg, 0.827 mmol), HOBt (107 mg, 0.793 mmol) and NH2OTHP (74 mg, 0.63 mmol) following the procedure described in Example 30, Step B, giving (E)-3-[1′-benzoyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (120 mg) as a light yellow solid.

reactant | (E)-3-[1′-benzoyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 0.50 mmol, 200 mg | C(C1=CC=CC=C1)(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C21H17NO5
reactant | EDC | 0.827 mmol, 158 mg
reactant | HOBt | 0.793 mmol, 107 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 0.63 mmol, 74 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[1′-benzoyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 120 mg | C(C1=CC=CC=C1)(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C26H26N2O6
